US07109229B2
(e) Methyl 2-[7-(3-hydroxypropyl)-1H-indol-3-yl]oxoacetate
A 2.0 M solution of oxalyl chloride in methylene chloride (9.30 mL, 18.6 mmol) was added to a solution of 7-[3-(tert-butyldimethylsilyloxy)propyl]-1H-indole (4.9 g, 16.9 mmol) in ether (40 mL) dropwise over 15 min at 4° C. under N2. The ice bath was removed and the resulting mixture was stirred for 1.5 h. A 25% sodium methoxide in methanol solution (8.1 mL, 32.4 mmol) was added at −78° C. over 5 min. The mixture was allowed to warm up to room temperature and stirred for 2 h. The reaction was quenched with water (30 mL) and extracted with EtOAc (2×100 mL). The organic layers were combined, washed with saturated NH4Cl (60 mL), saturated NaCl (60 mL), dried (MgSO4) and concentrated to a red solid. Flash chromatography (SiO2, 50% EtOAc/CH2Cl2) gave the title compound (4.3 g, 97%) as a white solid. 1H NMR (400 MHz, DMSO-d6) 12.44 (s, 1H), 8.43 (d, J=3 Hz, 1H), 8.04 (d, J=8 Hz, 1H), 7.24 (dd, J=8, 8 Hz, 1H), 7.15 (d, J=8 Hz, 1H), 3.94 (s, 3H), 3.50 (t, J=6 Hz, 2H), 2.95 (t, J=7.6 Hz, 2H), 1.78 (m, 2H). MS (electrospray, m/z) 260.1 (M−−1).

reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylene chloride | 18.6 mmol, 9.30 mL | C(Cl)Cl | CH2Cl2
reactant | 7-[3-(tert-butyldimethylsilyloxy)propyl]-1H-indole | 16.9 mmol, 4.9 g | [Si](C)(C)(C(C)(C)C)OCCCC=1C=CC=C2C=CNC12 | C17H27NOSi
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 32.4 mmol, 8.1 mL | CO | CH4O
solvent | ether | 40 mL | CCOCC | C4H10O
product | Methyl 2-[7-(3-hydroxypropyl)-1H-indol-3-yl]oxoacetate | 4.3 g, 97% | OCCCC=1C=CC=C2C(=CNC12)C(C(=O)OC)=O | C14H15NO4
